US05389641
9f) Methyl 2-butyl-1-[[4-[2-(1H-tetrazol-5-yl)benzo[b]furan-3-yl]phenyl]methyl]benzimidazole-7-carboxylate
A solution of methyl 2-butyl-1-[[4-(2-cyanobenzo[b]furan-3-yl)phenyl]methyl]benzimidazole-7-carboxylate (1.3 g) and trimethyltin azide (2.9 g) in toluene (125 ml) was heated under reflux for 2 days. After concentration to dryness, the residue was dissolved in a mixture of methanol (150 ml) and 1N hydrochloric acid (25 ml) and the mixture was stirred at room temperature for 3 hours. The reaction mixture was concentrated to dryness and the residue was dissolved in methylene chloride. The resulting solution was washed with water, dried and concentrated to dryness. The residue was purified by column chromatography on silica gel to give pale yellow powders (1.3 g).

reactant | methyl 2-butyl-1-[[4-(2-cyanobenzo[b]furan-3-yl)phenyl]methyl]benzimidazole-7-carboxylate | 1.3 g | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C3=C(OC1C#N)C=CC=C3)C(=CC=C2)C(=O)OC | C29H25N3O3
reactant | trimethyltin azide | 2.9 g | C[Sn](C)(C)N=[N+]=[N-]
solvent | toluene | 125 ml | C1(=CC=CC=C1)C | C7H8
product | Methyl 2-butyl-1-[[4-[2-(1H-tetrazol-5-yl)benzo[b]furan-3-yl]phenyl]methyl]benzimidazole-7-carboxylate | 1.3 g | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C3=C(OC1C1=NN=NN1)C=CC=C3)C(=CC=C2)C(=O)OC | C29H26N6O3
